US06316482B1
A solution of 4-[2-chloro-1H-benzimidazol-4-yl]carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (70 mg) and N-methylpiperazine (106 mg) was heated at 80° C. for 2.5 hours. The excess of N-methylpiperazine was evaporated in vacuo and the residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) to give 3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]-4-[2-(4-methylpiperazin-1-yl)-1H-benzimidazol-4-yl]carbonylaminobenzamide (66 mg).

reactant | 4-[2-chloro-1H-benzimidazol-4-yl]carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 70 mg | ClC1=NC2=C(N1)C=CC=C2C(=O)NC2=C(C=C(C(=O)N(C1=C(C=C(C=C1)C)OCCCCCC(=O)N1CCN(CC1)C)C)C=C2)OC | C35H41ClN6O5
reactant | N-methylpiperazine | 106 mg | CN1CCNCC1 | C5H12N2
product | 3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]-4-[2-(4-methylpiperazin-1-yl)-1H-benzimidazol-4-yl]carbonylaminobenzamide | 66 mg | COC=1C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=CC1NC(=O)C1=CC=CC=2NC(=NC21)N2CCN(CC2)C | C40H52N8O5
